Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
allopurinol / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
low urine output
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ female with a history of insulin-dependent diabetes 
and chronic renal failure who has been evaluated for possible 
transplant for dialysis but has not yet proceed with same, CAD 
s/p DES, CKD, HFpEF (EF>60%) on torsemide, AF on coumadin, 
recently hospitalized in ___ for pneumonia and 
concurrent AoCKD improved with treatment of pneumonia, 
presenting for evaluation of decreased urine output over the 
last 12 hours. 

Unfortunately I was only able to briefly speak with her in the 
emergency department until I was called away. Upon my return, 
she stated "son of a bitch. It's 4 o clok in the morning, leave 
me a alone!" removed my hands from examining her.  

Per ED history: patient states that she has been unable to pee 
since morning, with the exception of a small amount of 
dribbling. She has not had any pain or other associated 
symptoms. She drinks several juice boxes and was still unable to 
pee. She does not feel like she has a sense of bladder 
distention at this time. 

To me she stated denied PND, orthopnea, worsened leg swelling, 
worsened weight.

Per RN: denied changed urine color, foul smelling urine, 
dysuria.  

In ED: Initial VS:  97.1  77  107/58  18  96% RA 
Examination soft obese abdomen with no tenderness or discomfort 
in the suprapubic region. No CVA tenderness. No edema of legs 
Pt voided 20 ml yellow urine - post void residule on bladder 
scanner approx. 5 
 Labs notable for: hyponatremia (129), elevated BUN/Cr to 
140/3.9 from 67/1.7 on discharge in ___. WBC 1.3, anemia 
stable from prir 8.3/26.1; Urine Na <20, Cl <20, Prot/Cr 2.0
Renal u/s: Normal sonographic appearance of bilateral kidneys. 
No hydronephrosis
Renal c/s: Please wait for bicarb level, use d5w-150meq bicarb 
drip if bicarb<20, otherwise use normal saline. Check urine 
protein/CT ratio also.
 
Following 1L NS administration, patient voided unknown amount in 
ED. Patient voided 175cc on the floor. 

Per RN patient stated that she felt better after IVF, didn't 
realize she was dehydrated.
 
Past Medical History:
HTN, labile  
HLD  
HYPOTHYROIDISM  
RETINAL ARTERY OCCLUSION - BRANCH  
MIGRAINE EQUIVALENT  
CAD/MI (MIs in ___ and ___: This demonstrated a mid  
RCA lesion which was stented with a drug-eluting stent. LAD had 
a proximal 30% stenosis, left circumflex had a ostial 50% 
stenosis. The distal RCA also had a 50% stenosis)  
CHF (EF 60-65% in ___  
OBESITY,  
insulin-dependent DMII  
Gout  
Renal artery stenosis  
CKDIII  
Anemia  
afib on anticoagulation  
Depression  
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
========================
Vital Signs: 98.1 PO 100 / 53  Sitting 81 18 93 RA 
Weight: 93 kg 
General: sitting up in bed, appears comfortable, NAD   
CV: Irreg irreg no murmurs, rubs, gallops  
Lungs: Poor inspiratory effort. Poor air movement throught, 
diffuse crackles  
Patient declined further exam
.
Discharge Physical Exam:
======================== 
Vital Signs: 97.9 134/82 65 18 95% RA  
Weight: 94.89kg <- 94.94kg  
General: Lying in bed comfortably, in NAD  
HEENT: NA/AT, EOMI  
Neck: supple  
CV: RRR, no murmurs, rubs, gallops  
Lungs: Clear to auscultation bilaterally anteriorly  
Extremities: varicose veins, some mild lower extremity edema 
around ankles b/l, appears improved from yesterday  

 
Pertinent Results:
Admission Labs:
===============
___ 07:00PM BLOOD WBC-11.3* RBC-2.63* Hgb-8.3* Hct-26.1* 
MCV-99* MCH-31.6 MCHC-31.8* RDW-14.6 RDWSD-53.1* Plt ___
___ 07:00PM BLOOD Neuts-80.1* Lymphs-9.5* Monos-8.1 Eos-1.0 
Baso-0.1 Im ___ AbsNeut-9.08* AbsLymp-1.08* AbsMono-0.92* 
AbsEos-0.11 AbsBaso-0.01
___ 06:35AM BLOOD ___ PTT-47.9* ___
___ 07:00PM BLOOD Glucose-256* UreaN-140* Creat-3.9*# 
Na-129* K-4.4 Cl-85* HCO3-23 AnGap-25*
___ 06:35AM BLOOD Calcium-8.3* Phos-4.8* Mg-2.2
___ 06:35AM BLOOD Digoxin-1.0
.
Imaging:
========
___ Renal US:
Normal sonographic appearance of bilateral kidneys.  No 
hydronephrosis.
.
___ CXR:
In comparison with the study of ___, there again is 
hyperexpansion of the lungs consistent with chronic pulmonary 
disease and substantial enlargement of the cardiac silhouette.  
Mild indistinctness of pulmonary vessels could reflect minimal 
vascular congestion.  Blunting of the costophrenic angles is 
again seen. No evidence of acute focal pneumonia.
.
Discharge Labs:
=============== 
___ 07:00AM BLOOD WBC-9.0 RBC-2.68* Hgb-7.9* Hct-26.0* 
MCV-97 MCH-29.5 MCHC-30.4* RDW-14.6 RDWSD-51.5* Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD ___ PTT-41.1* ___
___ 07:00AM BLOOD Glucose-186* UreaN-137* Creat-3.2* Na-136 
K-4.2 Cl-93* HCO3-19* AnGap-28*
___ 07:00AM BLOOD Calcium-9.0 Phos-4.5 Mg-2.___ with PMH CAD s/p DES, CKD, HFpEF (EF>60%) on torsemide, AF 
on coumadin, who presented with low UOP and was found to have 
___. She received 3L of IV fluids without initial improvement in 
creatinine. Home irbesartan was held. The renal team was 
consulted and recommended holding torsemide and irbesartan, and 
monitoring Cr, which improved by time of discharge. Thought to 
___ secondary to ATN.

TRANSITIONAL ISSUES:
-- Weight at discharge: 94.9 kg
-- Cr at discharge: 3.2 (in setting of ___, recent baseline of 
1.7-2.3)
-- INR at discharge was 2.7. Please check. Initially patient was 
supratherapeutic and Coumadin was held. Restarted prior to 
discharge.
-- HELD Irbesartan (SBPs during admission 100s-140s)
-- HELD Torsemide in setting ___
-- Please recheck electrolytes at next appointment on ___, 
restart torsemide if improving kidney function, consider lower 
dose
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. BuPROPion (Sustained Release) 150 mg PO QAM 
3. Carvedilol 50 mg PO BID 
4. Digoxin 0.125 mg PO 3X/WEEK (___) 
5. Ezetimibe 10 mg PO DAILY 
6. Febuxostat 40 mg PO DAILY 
7. Levothyroxine Sodium 112 mcg PO DAILY 
8. LORazepam 0.5 mg PO BID:PRN anxiety 
9. Methylprednisolone 4 mg PO DAILY 
10. Ondansetron 4 mg PO Q8H:PRN nausea 
11. OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
12. Torsemide 60 mg PO BID 
13. Vitamin D ___ UNIT PO DAILY 
14. Warfarin 3.75 mg PO 5X/WEEK (___) 
15. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
16. Ferrous Sulfate 325 mg PO BID 
17. Metolazone 2.5 mg PO DAILY 
18. Miconazole Powder 2% 1 Appl TP BID 
19. nystatin 100,000 unit/gram topical ___ daily 
20. Fluticasone Propionate 110mcg 2 PUFF IH BID 
21. Warfarin 5 mg PO 2X/WEEK (___) 
22. irbesartan 150 mg oral DAILY 
23. Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Simethicone 40-80 mg PO QID:PRN bloating  
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
3.  Aspirin 81 mg PO DAILY  
4.  BuPROPion (Sustained Release) 150 mg PO QAM  
5.  Carvedilol 50 mg PO BID  
6.  Digoxin 0.125 mg PO 3X/WEEK (___)  
7.  Ezetimibe 10 mg PO DAILY  
8.  Febuxostat 40 mg PO DAILY  
9.  Ferrous Sulfate 325 mg PO BID  
10.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
11.  Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
12.  Levothyroxine Sodium 112 mcg PO DAILY  
13.  LORazepam 0.5 mg PO BID:PRN anxiety  
14.  Methylprednisolone 4 mg PO DAILY  
15.  Miconazole Powder 2% 1 Appl TP BID  
16.  nystatin 100,000 unit/gram topical ___ daily  
17.  Ondansetron 4 mg PO Q8H:PRN nausea  
18.  OxyCODONE (Immediate Release) 10 mg PO Q6H:PRN BREAKTHROUGH 
PAIN  
19.  Vitamin D ___ UNIT PO DAILY  
20.  Warfarin 3.75 mg PO 5X/WEEK (___)  
21.  Warfarin 5 mg PO 2X/WEEK (___)  
22. HELD- irbesartan 150 mg oral DAILY  This medication was 
held. Do not restart irbesartan until discussing restarting this 
medication with your doctor on ___. HELD- Metolazone 2.5 mg PO DAILY  This medication was held. 
Do not restart Metolazone until discussing restarting this 
medication with your doctor on ___. HELD- Torsemide 60 mg PO BID  This medication was held. Do 
not restart Torsemide until after you see your doctor on ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Acute on chronic kidney injury

Secondary:
Type 2 DM on insulin
Hypertension
Gout
Chronic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you noticed that your urine 
output was low. We found that your kidney function was worse. 
You received IV fluids, and you were seen by the nephrologists. 
They looked at your urine under the microscope, and it appears 
that your condition was caused by dehydration, which injured the 
kidney. 

Medications that likely contributed to this injury are torsemide 
and irbesartan. It will be important to wait before restarting 
either of these medications, to allow your kidneys to continue 
to heal. Please continue to take your other medications as 
listed below. Please follow up with the appointment listed 
below, at which point your doctor ___ determine what dose of 
torsemide to re-start. If you notice new or worsening symptoms, 
please seek medical care.

It has been a pleasure taking part in your care, and we wish you 
the best.

- Your ___ care team
 
Followup Instructions:
___